US07572808B2
A. Preparation of 8-bromo-7-(4-chlorophenyl)-5-methyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
The title compound (27 mg, 74%) was prepared from 8-bromo-7-(4-chlorophenyl)-5-methyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (25 mg, 0.074 mmol) and 5-(chloromethyl)-2-(trifluoromethyl)pyridine (21.7 mg, 0.11 mmol) by procedures analogous to those used for the preparation of 8-bromo-7-(4-chlorophenyl)-5-methyl-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one. HPLC/MS: retention time=4.03 min, [M+H]+=498.1.

reactant | 8-bromo-7-(4-chlorophenyl)-5-methyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.074 mmol, 25 mg | BrC=1C=2N(C(=CC1C1=CC=C(C=C1)Cl)C)C(NN2)=O | C13H9BrClN3O
reactant | 5-(chloromethyl)-2-(trifluoromethyl)pyridine | 0.11 mmol, 21.7 mg | ClCC=1C=CC(=NC1)C(F)(F)F | C7H5ClF3N
reactant | 8-bromo-7-(4-chlorophenyl)-5-methyl-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | BrC=1C=2N(C(=CC1C1=CC=C(C=C1)Cl)C)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C)=O | C21H15BrClF3N4O
product | 8-bromo-7-(4-chlorophenyl)-5-methyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 27 mg, 74% | BrC=1C=2N(C(=CC1C1=CC=C(C=C1)Cl)C)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C20H13BrClF3N4O
